US08664401B2
A mixture of 1-bromo-4-iodo-benzene (2.5 g, 8.8 mmol), piperidine-4-yl-methanol (2.0 g, 17.7 mmol), potassium phosphate (3.8 g, 17.7 mmol) and copper (I) iodide (3.8 g, 17.7 mmol) in N,N-dimethyl ethanolamine (8.4 mL) was heated to 55° C. for 48 hours. The mixture was allowed to cool to ambient temperature, water was added and the mixture was extracted with ether 2×. The combined organic extracts were washed with water 3×. The organic extract was dried over magnesium sulfate, filtered and concentrated to a crude residue. The residue was dissolved in methylene chloride and passed through a silica gel pad. The pad was eluted ethyl acetate/heptanes (3:7) to ethyl acetate/heptanes (6:4) and the filtrate was concentrated in vacuo to afford [1-(4-bromo-phenyl)-piperidin-4-yl]-methanol as a white solid. (2.4 g)

reactant | 1-bromo-4-iodo-benzene | 8.8 mmol, 2.5 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | piperidine-4-yl-methanol | 17.7 mmol, 2.0 g | N1CCC(CC1)CO | C6H13NO
reactant | potassium phosphate | 17.7 mmol, 3.8 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethyl ethanolamine | 8.4 mL | CN(CCO)C | C4H11NO
catalyst | copper (I) iodide | 17.7 mmol, 3.8 g | [Cu]I
product | [1-(4-bromo-phenyl)-piperidin-4-yl]-methanol | BrC1=CC=C(C=C1)N1CCC(CC1)CO | C12H16BrNO
